US06784137B2
A solution of 4-amino-2,3-dichloro-6-(5-oxazolyl)pyridine (800 mg, 3.48 mmol), sodium acetate (571 mg, 6.96 mmol), palladium acetate (16 mg, 0.07 mmol), and 1,4-bis(diphenylphosphino)butane (30 mg, 0.07 mmol) in methanol (25 mL) was pressurized with carbon monoxide at 100 psi. After 12 hours at 100° C., the reaction mixture was cooled and concentrated. The residue was taken up into ethyl actetate and washed twice with water. The organic layer was dried (MgSO4) and concentrated to provide methyl 4-amino-3-chloro-6-(5-oxazolyl)pyridine-2-carboxylate (788 mg, 3.10 mmol), mp 166-70° C.

reactant | 4-amino-2,3-dichloro-6-(5-oxazolyl)pyridine | 3.48 mmol, 800 mg | NC1=C(C(=NC(=C1)C1=CN=CO1)Cl)Cl | C8H5Cl2N3O
reactant | sodium acetate | 6.96 mmol, 571 mg | C(C)(=O)[O-].[Na+]
reactant | carbon monoxide | [C]=O | CO
reactant | methanol | 25 mL | CO | CH4O
catalyst | palladium acetate | 0.07 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,4-bis(diphenylphosphino)butane | 0.07 mmol, 30 mg | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
product | methyl 4-amino-3-chloro-6-(5-oxazolyl)pyridine-2-carboxylate | 3.10 mmol, 788 mg | NC1=C(C(=NC(=C1)C1=CN=CO1)C(=O)OC)Cl | C10H8ClN3O3
